US04988723
The mixture of trans-4-(3-cyano-2-methyl-1-isothioureido)-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (0.50 g) and 25% aqueous methylamine (10 ml) in ethanol (10 ml) was stirred under reflux for 1 hour and 10 minutes. The solvent was evaporated under reduced pressure. The residue was dissolved in ethyl acetate (30 ml), dried over magnesium sulfate and evaporated in vacuo. The residue was subjected to column chromatography on silica gel (10 g) and eluted with chloroform and then a mixture of chloroform and methanol (20:1). The fractions containing the object compound were combined and concentrated under reduced pressure. The residue was triturated with diisopropyl ether to give trans-4-(2-cyano-3-methylguanidino)-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (0.38 g).

reactant | trans-4-(3-cyano-2-methyl-1-isothioureido)-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 0.50 g | C(#N)N=C(N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O)SC | C15H16N4O2S
reactant | methylamine | 10 ml | CN | CH5N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | trans-4-(2-cyano-3-methylguanidino)-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 0.38 g | C(#N)N=C(N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O)NC | C15H17N5O2
